US09381191B2
0.238 g (0.949 mmol) of (3-(phenyl-ethynyl)imidazo[1,2-a]pyridin-2-yl) methanol were dissolved in 5 ml of dichloromethane with magnetic stirring and then 0.346 ml (4.75 mmol) of thionyl chloride were added. The mixture was stirred at r.t. for 2 h before being concentrated in vacuo. The residue was taken up into 20 ml of a mixture consisting of ethyl acetate and of a saturated NaHCO3 aqueous solution (1/1, v/v). After separation, the aqueous phase was extracted with 10 ml of ethyl acetate. The combined organic phases were washed with 10 ml of a saturated NaCl aqueous solution and then dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo. 0.246 g (yield=96%) of 2-(chloromethyl)-3-(phenyl ethynyl)imidazo[1,2-a]pyridine were obtained as a brown solid. LC-MS: m/z=267 (MH+); UV purity at 254 nm=98%.

reactant | (3-(phenyl-ethynyl)imidazo[1,2-a]pyridin-2-yl) methanol | 0.949 mmol, 0.238 g | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)CO | C16H12N2O
reactant | thionyl chloride | 4.75 mmol, 0.346 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(chloromethyl)-3-(phenyl ethynyl)imidazo[1,2-a]pyridine | 0.246 g, yield=96% | ClCC=1N=C2N(C=CC=C2)C1C#CC1=CC=CC=C1 | C16H11ClN2
